US07291632B2
4-Fluoro-N-(6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-benzamide hydrochloride
Prepare according to Example 69 starting with N-Methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine (Preparation 34) (200 mg, 0.91 mmol) and 4-fluorobenzoyl chloride (160 μL, 1.36 mmol) to yield 309 mg (90%) of the title compound: mass spectrum (ion spray): m/z=343.3 (M+1); Analysis calc'd for C19H24N4OFCl.0.6H2O: C, 58.56; H, 6.52; N, 14.38. Found: C, 58.31; H, 6.37; N, 14.39; mp 250–2° C.

reactant | N-Methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine | 0.91 mmol, 200 mg | CN(C1=NC(=CC=C1)N)C1CCN(CC1)C | C12H20N4
reactant | 4-fluorobenzoyl chloride | 1.36 mmol, 160 μL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 4-Fluoro-N-(6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-benzamide hydrochloride | 309 mg, 90% | Cl.FC1=CC=C(C(=O)NC2=NC(=CC=C2)N(C2CCN(CC2)C)C)C=C1 | InChI=1S/C19H23FN4O.ClH/c1-23-12-10-16(11-13-23)24(2)18-5-3-4-17(21-18)22-19(25)14-6-8-15(20)9-7-14;/h3-9,16H,10-13H2,1-2H3,(H,21,22,25);1H
